US07652057B2
To 4-cyclopropyl-1,5-dimethyl-2-phenyl-1,2-dihydro-pyrazol-3-one (0.081 g) in a round bottom flask under argon in dioxane (1.5 mL) was added bromine (0.057 g). The reaction was stirred at ambient temperature for 2 days. The reaction was diluted with water and EtOAc and the phases were separated. The aqueous phase was extracted with more EtOAc and the combined organic phases were washed with brine, dried over sodium sulfate, filtered and evaporated in vacuo. The crude material was purified via ISCO combiflash chromatography (EtOAc/heptane) to afford the desired 5-Bromomethyl-4-cyclopropyl-1-methyl-2-phenyl-1,2-dihydro-pyrazol-3-one as a light brown solid. MS (ESI+): 307.1 ([M+H]+).

reactant | 4-cyclopropyl-1,5-dimethyl-2-phenyl-1,2-dihydro-pyrazol-3-one | 0.081 g | C1(CC1)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C14H16N2O
reactant | bromine | 0.057 g | BrBr | Br2
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-Bromomethyl-4-cyclopropyl-1-methyl-2-phenyl-1,2-dihydro-pyrazol-3-one | BrCC1=C(C(N(N1C)C1=CC=CC=C1)=O)C1CC1 | C14H15BrN2O
